US06548511B1
2,5-Dichloroaniline (0.49 g, 3.0 mmol) was dissolved in DMF (20 ml), and sodium hydride (60% oil, 0.20 g, 5.01 mmol) was added, followed by stirring at room temperature for 20 minutes. Then, 3-ethyl-2-methylthio-6-trifluoromethyl-4(3H)-pyrimidinone (1,14 g, 4.80 mmol) synthesized in the above was added, followed by stirring at 80° C. for 4 hours. After completion of the reaction, ice-water (30 ml) and ethyl acetate (30 ml) were added to the reaction solution to separate the organic layer, and then the aqueous layer was extracted with ethyl acetate (20 ml×3). The organic layers were combined, washed with saturated sodium bicarbonate aqueous solution (50 ml), water (50 ml×2) and saturated brine (80 ml) and then dried over anhydrous magnesium sulfate. The drying agent was removed by filtration and the resulting filtrate was concentrated under a reduced pressure. The thus obtained crude product was purified by a silica gel column chromatography (hexane: ethyl acetate=10:1) and then recrystallized from toluene, thereby obtaining yellow crystals of 2-(2,5-dichlorophenyl)amino-3-ethyl-6-trifluoromethyl-4(3H)-pyrimidinone [Compound No. 6].

reactant | 2,5-Dichloroaniline | 3.0 mmol, 0.49 g | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | sodium hydride | 5.01 mmol, 0.20 g | [H-].[Na+]
reactant | 3-ethyl-2-methylthio-6-trifluoromethyl-4(3H)-pyrimidinone | 4.80 mmol, 1,14 g | C(C)N1C(=NC(=CC1=O)C(F)(F)F)SC | C8H9F3N2OS
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(2,5-dichlorophenyl)amino-3-ethyl-6-trifluoromethyl-4(3H)-pyrimidinone | Yield: 64% | ClC1=C(C=C(C=C1)Cl)NC1=NC(=CC(N1CC)=O)C(F)(F)F | C13H10Cl2F3N3O
